plaintext
* SPICE Netlist

M1 0 6 3 NMOS
M2 55 2 3 NMOS
M3 44 2 4 NMOS

IIN 6 66 DC

RS1 0 3 RS1_value
RS2 3 7 RS2_value

* Control Statements

.tran 1n 10u
.end